US06943264B2
These methods, however, have problems. Method (1) needs a large volume of water and results in very low yields due to low selectivity of reaction. Method (2) is unsuitable as an industrial process because perchloric acid which is difficult to handle must be used as the catalyst. Method (3) must use hexamethyldisiloxane in large excess in order to promote conversion, but a large amount of a reaction intermediate, 1,1,1,3,5,5,5-heptamethyl-3-ethoxytrisiloxane is left behind. Thus method (3) is not suitable for producing methyltris(trimethylsiloxy)silane with a high purity. In method (4), a by-product having a similar boiling point, 1,1,1,3,5,5,5-heptamethyl-3-methoxytrisiloxane is produced along with the end compound, methyltris(trimethylsiloxy)silane. The yield is 82% at the stage of reaction solution. However, after the reaction solution is distilled for purification to isolate methyltris(trimethylsiloxy)silane with a high purity, the yield as isolated is estimated to be significantly lower. Method (5) produces methyltris(trimethylsiloxy)silane with a high purity, but in a yield of 70%, which is unsatisfactory. The products of methods (3) to (5), which contain monomethoxysilanes and monohydroxysilanes such as 1,1,1,3,5,5,5-heptamethyl-3-methoxytrisiloxane and 1,1,1,3,5,5,5-heptamethyl-3-hydroxytrisiloxane as impurities, must be distilled or otherwise processed to remove the impurities before methyltris(trimethylsiloxy)silane can be obtained in high purity.

reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | hexamethyldisiloxane | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | 1,1,1,3,5,5,5-heptamethyl-3-ethoxytrisiloxane | C[Si](O[Si](O[Si](C)(C)C)(OCC)C)(C)C | C9H26O3Si3
solvent | water | O | H2O
product | methyltris(trimethylsiloxy)silane | C[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C10H30O3Si4
